US07968570B2
A mixture of 5-bromo-2-[2-(4-phenoxy-phenyl)-ethyl]-2,3-dihydro-isoindol-1-one (0.128 g, 0.31 mmol), 1-methyl piperazine (0.046 mL, 0.41 mmol), Pd2.dba3 (0.009 g, 0.01 mmol), BINAP (0.012 g, 0.02 mmol), and sodium tertiary-butoxide (0.048 g, 0.5 mmol) in toluene (3 mL) was heated to reflux for 3 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-(4-Methyl-piperazin-1-yl)-2-[2-(4-phenoxy-phenyl)-ethyl]-2,3-dihydro-isoindol-1-one (0.039 g, 29%). 1H NMR (300 MHz, CDCl3): δ (ppm) 2.36 (s, 3H), 2.58 (m, 4H), 2.94 (t, 2H), 3.32 (m, 4H), 3.81 (t, 2H), 4.16 (s, 2H), 6.82-7.35 (m, 1H), 7.69 (d, 1H).

reactant | 5-bromo-2-[2-(4-phenoxy-phenyl)-ethyl]-2,3-dihydro-isoindol-1-one | 0.31 mmol, 0.128 g | BrC=1C=C2CN(C(C2=CC1)=O)CCC1=CC=C(C=C1)OC1=CC=CC=C1 | C22H18BrNO2
reactant | 1-methyl piperazine | 0.41 mmol, 0.046 mL | CN1CCNCC1 | C5H12N2
reactant | BINAP | 0.02 mmol, 0.012 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tertiary-butoxide | 0.5 mmol, 0.048 g | CC(C)([O-])C.[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(4-Methyl-piperazin-1-yl)-2-[2-(4-phenoxy-phenyl)-ethyl]-2,3-dihydro-isoindol-1-one | 0.039 g, 29% | CN1CCN(CC1)C=1C=C2CN(C(C2=CC1)=O)CCC1=CC=C(C=C1)OC1=CC=CC=C1 | C27H29N3O2
